US06291505B1
To a solution of 1-(4-methoxyphenyl)-3-phenylpropan-1-one (1.0 equiv.) in THF at −78° C. was dropwise 1.5 equiv. of [(CH3)2Si]2NLi. The solution was stirred for 1 h at −78° C., followed by addition of 1.2 equiv. of p-anisoyl chloride. The reaction mixture was stirred for 10 min at −78° C. and then for 22 h at rt, acidified with 10% citric acid, and extracted with EtOAc. The combined organic layers were washed with water and dried over Na2SO4. Removal of solvent in vacuo provided a crude solid which was purified by flash chromatography (CH2Cl2) to give 1,3-bis(4-methoxyphenyl)-2-benzylpropane-1,3-dione.

reactant | 1-(4-methoxyphenyl)-3-phenylpropan-1-one | 1.0 equiv. | COC1=CC=C(C=C1)C(CCC1=CC=CC=C1)=O | C16H16O2
reactant | p-anisoyl chloride | 1.2 equiv. | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
product | 1,3-bis(4-methoxyphenyl)-2-benzylpropane-1,3-dione | COC1=CC=C(C=C1)C(C(C(=O)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)=O | C24H22O4
